data/polar.json
{"reaction_name": "Aza-Michael addition", "rsmi": "[N+:1](=[N-:13])=[N-:14].[S:2]([c:5]1[cH:16][cH:9][cH:7][cH:12][cH:19]1)([C:15]([S:3]([c:6]1[cH:17][cH:10][cH:8][cH:11][cH:18]1)(=[O:20])=[O:21])=[CH2:4])(=[O:22])=[O:23]>>[N+:1]([N-:13][CH2:4][C-:15]([S:2]([c:5]1[cH:16][cH:9][cH:7][cH:12][cH:19]1)(=[O:22])=[O:23])[S:3]([c:6]1[cH:17][cH:10][cH:8][cH:11][cH:18]1)(=[O:20])=[O:21])#[N:14]", "epd": [["LP-/Pi+", [14], [1, 14]], ["Pi-/Sigma+", [13, 1], [13, 4]], ["Pi-/LP+", [4, 15], [15]]]}
{"reaction_name": "Chloral addition", "rsmi": "[CH3:1][Mg:5][Br:9].[Cl:2][C:7]([Cl:3])([Cl:4])[CH:6]=[O:8]>>[Br-:9].[CH3:1][CH:6]([C:7]([Cl:2])([Cl:3])[Cl:4])[O-:8].[Mg+2:5]", "epd": [["Sigma-/Sigma+", [1, 5], [1, 6]], ["Pi-/LP+", [6, 8], [8]], ["Sigma-/LP+", [5, 9], [9]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:6]([c:10]1[cH:20][cH:14][cH:12][cH:17][cH:23]1)([C:18]([S:7]([c:11]1[cH:21][cH:15][cH:13][cH:16][cH:22]1)(=[O:25])=[O:26])=[CH2:8])(=[O:27])=[O:28].[cH:1]1[cH:3][c:4]2[c:29]([cH:9][cH:30]1)[CH:24]=[CH:2][CH:19]2[Li:5]>>[Li+:5].[cH:1]1[cH:3][c:4]2[c:29]([cH:9][cH:30]1)[CH:24]=[CH:2][CH:19]2[CH2:8][C-:18]([S:6]([c:10]1[cH:20][cH:14][cH:12][cH:17][cH:23]1)(=[O:27])=[O:28])[S:7]([c:11]1[cH:21][cH:15][cH:13][cH:16][cH:22]1)(=[O:25])=[O:26]", "epd": [["Sigma-/Sigma+", [19, 5], [19, 8]], ["Pi-/LP+", [8, 18], [18]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[N:1]1([c:9]2[c:32]([CH3:11])[cH:28][c:20]([CH3:18])[cH:31][c:35]2[CH3:14])[CH:27]=[CH:26][N:2]([c:10]2[c:33]([CH3:12])[cH:29][c:21]([CH3:19])[cH:30][c:34]2[CH3:13])[C:36]1=[CH2:22].[cH:3]1[c:6]([N+:23](=[O:15])[O-:38])[cH:4][c:7]([N+:24](=[O:16])[O-:37])[cH:5][c:8]1[N+:25](=[O:17])[O-:39]>>[n+:1]1(-[c:9]2[c:32]([CH3:11])[cH:28][c:20]([CH3:18])[cH:31][c:35]2[CH3:14])[cH:27][cH:26][n:2](-[c:10]2[c:33]([CH3:12])[cH:29][c:21]([CH3:19])[cH:30][c:34]2[CH3:13])[c:36]1[CH2:22][CH:3]1[C:6](=[N+:23]([O-:15])[O-:38])[CH:4]=[C:7]([N+:24](=[O:16])[O-:37])[CH:5]=[C:8]1[N+:25](=[O:17])[O-:39]", "epd": [["LP-/Pi+", [1], [36, 1]], ["Pi-/Sigma+", [22, 36], [22, 3]], ["Pi-/Pi+", [3, 6], [6, 23]], ["Pi-/LP+", [23, 15], [15]]]}
{"reaction_name": "Oxymercuration", "rsmi": "[CH2:3]=[CH:4][CH3:11].[O:1]([H:8])[CH3:10].[O:2]=[C:9]([CH3:5])[O:7][Hg:6][O:12][C:13](=[O:14])[CH3:15]>>[O:1]([CH:4]([CH2:3][Hg:6][O:7][C:9](=[O:2])[CH3:5])[CH3:11])[CH3:10].[O:12]([H:8])[C:13](=[O:14])[CH3:15]", "epd": [["Pi-/Sigma+", [3, 4], [3, 6]], ["Sigma-/LP+", [6, 12], [12]], ["LP-/Sigma+", [12], [8, 12]], ["Sigma-/LP+", [1, 8], [1]], ["LP-/Sigma+", [1], [1, 4]]]}
{"reaction_name": "General SN1 substitution", "rsmi": "[Cl:1][C:2]([CH3:3])([CH3:4])[CH3:5].[OH:6][H:7]>>[C:2]([CH3:3])([CH3:4])([CH3:5])[OH:6].[Cl:1][H:7]", "epd": [["Sigma-/LP+", [1, 2], [1]], ["LP-/Sigma+", [6], [2, 6]], ["LP-/Sigma+", [1], [1, 7]], ["Sigma-/LP+", [6, 7], [6]]]}
{"reaction_name": "Michael addition", "rsmi": "[S:5]([c:13]1[cH:27][cH:17][cH:15][cH:20][cH:30]1)([C:24]([S:6]([c:14]1[cH:28][cH:18][cH:16][cH:19][cH:29]1)(=[O:32])=[O:33])=[CH2:10])(=[O:34])=[O:35].[c:1]1([S:21](=[O:25])(=[O:26])[CH-:36][c:7]2[cH:3][cH:22][cH:31][cH:23][cH:4]2)[cH:8][cH:11][cH:2][cH:12][cH:9]1>>[c:1]1([S:21](=[O:25])(=[O:26])[CH:36]([c:7]2[cH:3][cH:22][cH:31][cH:23][cH:4]2)[CH2:10][C-:24]([S:5]([c:13]2[cH:27][cH:17][cH:15][cH:20][cH:30]2)(=[O:34])=[O:35])[S:6]([c:14]2[cH:28][cH:18][cH:16][cH:19][cH:29]2)(=[O:32])=[O:33])[cH:8][cH:11][cH:2][cH:12][cH:9]1", "epd": [["LP-/Sigma+", [36], [36, 10]], ["Pi-/LP+", [10, 24], [24]]]}
{"reaction_name": "Meldrum acid alkylidene formation", "rsmi": "[C:1]1([H:19])([H:20])[C:17](=[O:15])[O:8][C:2]([CH3:5])([CH3:6])[O:9][C:18]1=[O:16].[O:3]=[CH:7][c:4]1[cH:13][cH:11][cH:10][cH:12][cH:14]1>>[C:1]1(=[CH:7][c:4]2[cH:13][cH:11][cH:10][cH:12][cH:14]2)[C:17](=[O:15])[O:8][C:2]([CH3:5])([CH3:6])[O:9][C:18]1=[O:16].[O:3]([H:19])[H:20]", "epd": [["Pi-/Sigma+", [3, 7], [3, 19]], ["Sigma-/LP+", [1, 19], [1]], ["LP-/Sigma+", [1], [1, 7]], ["Sigma-/Pi+", [1, 20], [1, 7]], ["Sigma-/LP+", [3, 7], [3]], ["LP-/Sigma+", [3], [3, 20]]]}
{"reaction_name": "Beckmann rearrangement", "rsmi": "[H+:2].[H:1][O:5][N:6]=[C:3]([CH3:9])[c:10]1[cH:11][cH:7][cH:4][cH:8][cH:12]1>>[H+:1].[H:2][N:6]([C:3](=[O:5])[CH3:9])[c:10]1[cH:11][cH:7][cH:4][cH:8][cH:12]1", "epd": [["Sigma-/Sigma+", [3, 10], [6, 10]], ["Sigma-/LP+", [5, 6], [5]], ["LP-/Sigma+", [5], [3, 5]], ["Pi-/LP+", [3, 6], [6]], ["LP-/Sigma+", [6], [2, 6]], ["LP-/Pi+", [5], [3, 5]], ["Sigma-/LP+", [1, 5], [5]]]}
